US07754717B2
In a round-bottomed flask was charged 3-iodo-4-methylbenzoic acid (1.4 g, 5.4 mmol), dicloromethane (4 ml), and DMF (2 ml). This mixture was cooled to 0° C. and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (1.2 g, 6.3 mmol) was added. The reaction mixture was stirred for 10 min before 2-cyclopentylethanamine (0.47 g, 4.2 mmol) was introduced. The reaction mixture was stirred at 0° C. for 1 h, then at RT under N2 for 16 h. The reaction was partitioned between DCM (60 ml) and brine (50 mL). The aqueous layer was back exacted with DCM (4×20 mL) and the combined DCM layer was dried (Na2SO4) and concentrated. The crude product was dissolved in DCM and purified by chromatography through a Redi-sep pre-packed silica gel column (330 g), eluting with a gradient of 5% to 15% EtOAc in hexane, to provide N-(2-cyclopentylethyl)-3-iodo-4-methylbenzamide as a white solid. MS (ESI, pos. ion) m/z: 358.1 (M+1).

reactant | 3-iodo-4-methylbenzoic acid | 5.4 mmol, 1.4 g | IC=1C=C(C(=O)O)C=CC1C | C8H7IO2
reactant | dicloromethane | 4 ml | ClCCl | CH2Cl2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 6.3 mmol, 1.2 g | Cl.CN(CCCN=C=NCC)C
reactant | 2-cyclopentylethanamine | 4.2 mmol, 0.47 g | C1(CCCC1)CCN | C7H15N
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | N-(2-cyclopentylethyl)-3-iodo-4-methylbenzamide | C1(CCCC1)CCNC(C1=CC(=C(C=C1)C)I)=O | C15H20INO
